US04374272
Example 11 was repeated except that the amount of the aniline hydrochloride was changed to 0.26 g (0.02 mole of catalyst per mole of the p-isopropenyl phenol monomeric unit). After the reaction, the reaction mixture was analyzed by gas chromatography. It was found that 17.3 g (yield 76%) of 2-(4'-hydroxyphenyl)-2-(4'-aminophenyl)-propane and 1.4 g of bisphenol A were formed.

reactant | aniline hydrochloride | Cl.NC1=CC=CC=C1
reactant | p-isopropenyl phenol | C(=C)(C)C1=CC=C(C=C1)O | C9H10O
product | 2-(4'-hydroxyphenyl)-2-(4'-aminophenyl)-propane | 17.3 g, yield 76% | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)N | C15H17NO
